US04129700
3,7-Dimethyl-7-(t-butylperoxy)octyl n-butyl carbonate (C-VII)
To a solution of 7.9 g (0.03 mole) of 3,7-dimethyl-7(t-butylperoxy)octyl alcohol and 2.4 g (0.03 mole) of pyridine in diethyl ether cooled at 10°±1° C was added a solution of 4.09 (0.03 mole) of n-butyl chloroformate in diethyl ether. The reaction temperature was maintained at 15°±1° C during the addition.

reactant | 3,7-dimethyl-7(t-butylperoxy)octyl alcohol | 0.03 mole, 7.9 g | CC(CCO)CCCC(C)(OOC(C)(C)C)C | C14H30O3
reactant | pyridine | 0.03 mole, 2.4 g | N1=CC=CC=C1 | C5H5N
reactant | n-butyl chloroformate | ClC(=O)OCCCC | C5H9ClO2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3,7-Dimethyl-7-(t-butylperoxy)octyl n-butyl carbonate | C(OCCC(CCCC(C)(OOC(C)(C)C)C)C)(OCCCC)=O | C19H38O5
